US07842688B2
e) 4,4,8-Trimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one
A mixture of 2.88 g of 2-(2-amino-3-methylphenyl)propan-2-ol and 2.14 g of urea is stirred in a sealed vessel at 150° C. over 6 hours. The reaction mixture is cooled to room temperature, admixed with diethyl ether, clarified by filtration and concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.22 (1:2 EtOAc-heptane); Rt=3.46.

reactant | 2-(2-amino-3-methylphenyl)propan-2-ol | 2.88 g | NC1=C(C=CC=C1C)C(C)(C)O | C10H15NO
reactant | urea | 2.14 g | NC(=O)N | CH4N2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,4,8-Trimethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | CC1(C2=C(NC(O1)=O)C(=CC=C2)C)C | C11H13NO2
